US07368579B2
Similar to Example 28, the objective compound was synthesized from 2-chloro-4-nitroimidazole (2.15 g) and 1-(tert-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane (12 g), there was obtained 1-[3-(tert-butyldimethylsilanyloxy)-2-(tetrahydropyran-2-yloxy)propyl]-2-chloro-4-nitroimidazole (3.03 g, yield: 74.3%) as colorless liquid product.

reactant | 2-chloro-4-nitroimidazole | 2.15 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 1-(tert-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane | 12 g | [Si](C)(C)(C(C)(C)C)OCC(CCl)OC1OCCCC1 | C14H29ClO3Si
product | 1-[3-(tert-butyldimethylsilanyloxy)-2-(tetrahydropyran-2-yloxy)propyl]-2-chloro-4-nitroimidazole | 3.03 g, yield: 74.3% | [Si](C)(C)(C(C)(C)C)OCC(CN1C(=NC(=C1)[N+](=O)[O-])Cl)OC1OCCCC1 | C17H30ClN3O5Si
